US07547699B2
(R)-5-Methyl-1,3,5,6,7,8-hexahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene
To a solution of 0.050 g (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester in 3 ml dichloromethane was added in 4 portions in intervals of 30 min 0.20 g manganese dioxide. The mixture was then stirred at room temperature for 18 h. The product was purified by chromatography on silica gel with heptane:ethyl acetate=1:1. to yield a yellow oil which was taken up in 1 ml trifluoroacetic acid and kept at room temperature for 30 min. The solvent was evaporated and the residue partitioned between water and ethyl acetate. The phases were separated and the aqueous phase was neutralized to pH 12 by addition of 2N sodium hydroxide and extracted with dichloromethane. The dichloromethane phase was washed with half concentrated brine and purified by chromatography on silca gel with dichloromethane:methanol:ammonia=90:10:0.1. to yield 0.011 g of the title compound as slightly yellow oil. (MS 232.1 (M+H+))

reactant | (5R,8aR)-5-methyl-3,5,6,8,8a,9-hexahydro-1H-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene-7-carboxylic acid tert-butyl ester | 0.050 g | C(C)(C)(C)OC(=O)N1C[C@H](N2C=3N=C4C(=CC3C[C@@H]2C1)COC4)C | C18H25N3O3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | manganese dioxide | 0.20 g | [O-2].[O-2].[Mn+4]
product | (R)-5-Methyl-1,3,5,6,7,8-hexahydro-2-oxa-4,4b,7-triaza-cyclopenta[b]fluorene | 0.011 g | C[C@H]1N2C=3N=C4C(=CC3C=C2CNC1)COC4 | C13H15N3O
